US04133809
N-Benzyl-N-(2'-nitro-5'-chlorophenyl)malonamic acid, ethyl ester
52 g of N-benzyl-N-(2-nitro-5-chlorophenyl) amine and 35.5 g of (chloroformyl)acetic acid ethyl ester in 500 ml benzene are refluxed for 15 hours. The reaction is cooled, washed with dilute aqueous sodium bicarbonate, dried and the solvent evaporated to give the title compound.

reactant | N-benzyl-N-(2-nitro-5-chlorophenyl) amine | 52 g | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C13H11ClN2O2
reactant | (chloroformyl)acetic acid ethyl ester | 35.5 g | C(C)OC(CC(=O)Cl)=O | C5H7ClO3
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | N-Benzyl-N-(2'-nitro-5'-chlorophenyl)malonamic acid, ethyl ester | C(C1=CC=CC=C1)N(C(CC(=O)OCC)=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C18H17ClN2O5
